US07723378B2
To a solution of spiro[4.5]dec-6-en-8-one (1.58 g, 10.5 mmol, prepared according to a literature procedure (N. R. Natale, R. O. Hutchins, Org. Prep. Proc. Int. 9 (1977) 103-108)) in EA (12 mL), Pd/C (75 mg, 10% Pd) is added. The mixture is stirred at rt under 1 bar of H2 for 90 min before it is filtered over celite. The solvent of the filtrate is evaporated to give spiro[4.5]decan-8-one (1.56 g) as an almost colourless liquid; 1H NMR (CDCl3): δ 2.36 (t, J=7.0 Hz, 4H), 1.75 (t, J=7.0 Hz, 4H), 1.70-1.65 (m, 4H), 1.62-1.50 (m, 4H).

reactant | spiro[4.5]dec-6-en-8-one | C1CCCC12C=CC(CC2)=O | C10H14O
solvent | EA | 12 mL | CC(OCC)=O | C4H8O2
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | spiro[4.5]decan-8-one | 1.56 g | C1CCCC12CCC(CC2)=O | C10H16O
